US04179461
A mixture of 69 g (1.0 mol) of sodium nitrite, 53 g (0.5 mol) of sodium carbonate, 5 g (0.01 mol) of hexadecyltributyl-phosphonium bromide, 220 ml of water and 78.5 g (0.5 mol) of 4-chloro-nitrobenzene is heated to 140° C. for 7 hours. After cooling, the solid product is filtered off and washed, first with a little dilute hydrochloric acid and then with a little alcohol. After drying, 61 g (91.5% of theory) of 4,4'-dinitrodiphenyl ether (melting point: 139°-140° C.) are obtained.

reactant | sodium nitrite | 1.0 mol, 69 g | N(=O)[O-].[Na+]
reactant | sodium carbonate | 0.5 mol, 53 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-chloro-nitrobenzene | 0.5 mol, 78.5 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
catalyst | hexadecyltributyl-phosphonium bromide | 0.01 mol, 5 g | [Br-].C(CCCCCCCCCCCCCCC)[P+](CCCC)(CCCC)CCCC
solvent | water | 220 ml | O | H2O
product | 4,4'-dinitrodiphenyl ether | 61 g, 91.5% | C1=CC(=CC=C1[N+](=O)[O-])OC2=CC=C(C=C2)[N+](=O)[O-] | C12H8N2O5
